US04559339
Preparation of 7-[(1-[2(S)-((1,1-dimethylethoxy)-carbonyl)amino-4-methylpentanoyl]-1H-indol-3-yl)methyl]quinazolino(3,2-A)-1,4-benzodiazepin-5,13-(6H,7H)-dione sesquihydrate
Potassium fluoride (117 mg, 2.02 mmole) was added to 10 ml of dry acetonitrile containing 1,4,7,10,13,16-hexaoxacyclooctadecane (266 mg, 1.01 mmole). To this solution were added 7-[(1H-indol-3-yl)methyl]quinazolino-(3,2-A)-1,4-benzodiazepin-5,13-(6H,7H)-dione (492 mg, 1.01 mmole), p-nitrophenyl-2(S)-((1,1-dimethyl)ethoxycarbonyl)amino-4-methylpentanoate (441 mg, 1.25 mmole) and 218 μl (1.25 mmole) of diisopropylethylamine under nitrogen. The reaction mixture was stirred rapidly, 10 ml of dimethylformamide was added, and one equivalent of each of the above reagents was added. After 60 hours, the reaction mixture was partitioned between ethyl acetate and water; the phases were separated and the organic layer was washed in succession with saturated sodium bicarbonate solution, 10% citric acid solution, and brine. Rotoevaporation of the dried (MgSO4) extracts gave a solid which was purified by silica gel chromatography (1:1 hexaneethyl acetate v/v).

reactant | Potassium fluoride | 2.02 mmole, 117 mg | [F-].[K+]
reactant | 1,4,7,10,13,16-hexaoxacyclooctadecane | 1.01 mmole, 266 mg | O1CCOCCOCCOCCOCCOCC1 | C12H24O6
reactant | 7-[(1H-indol-3-yl)methyl]quinazolino-(3,2-A)-1,4-benzodiazepin-5,13-(6H,7H)-dione | 1.01 mmole, 492 mg | N1C=C(C2=CC=CC=C12)CC1C=2N(C3=C(C(N1)=O)C=CC=C3)C(C=3C=CC=CC3N2)=O | C25H18N4O2
reactant | p-nitrophenyl-2(S)-((1,1-dimethyl)ethoxycarbonyl)amino-4-methylpentanoate | 1.25 mmole, 441 mg | [N+](=O)([O-])C1=CC=C(C=C1)[C@](C(=O)[O-])(CC(C)C)NC(=O)OC(C)(C)C
reactant | diisopropylethylamine | 1.25 mmole, 218 μl | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 7-[(1-[2(S)-((1,1-dimethylethoxy)-carbonyl)amino-4-methylpentanoyl]-1H-indol-3-yl)methyl]quinazolino(3,2-A)-1,4-benzodiazepin-5,13-(6H,7H)-dione sesquihydrate | O.CC(C)(OC(=O)N[C@H](C(=O)N1C=C(C2=CC=CC=C12)CC1C=2N(C3=C(C(N1)=O)C=CC=C3)C(C=3C=CC=CC3N2)=O)CC(C)C)C.O.O.CC(C)(OC(=O)N[C@H](C(=O)N2C=C(C3=CC=CC=C23)CC2C=3N(C1=C(C(N2)=O)C=CC=C1)C(C=1C=CC=CC1N3)=O)CC(C)C)C | InChI=1S/2C36H37N5O5.3H2O/c2*1-21(2)18-28(39-35(45)46-36(3,4)5)34(44)40-20-22(23-12-7-10-16-29(23)40)19-27-31-37-26-15-9-6-13-24(26)33(43)41(31)30-17-11-8-14-25(30)32(42)38-27;;;/h2*6-17,20-21,27-28H,18-19H2,1-5H3,(H,38,42)(H,39,45);3*1H2/t2*27?,28-;;;/m00.../s1
